US06849633B2
To an ethanol (2 ml) suspension of 85 mg (2.2 mmol) of sodium borohydride was gradually added 0.5 g (1.1 mmol) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylchloromethylimino)pyrazole-3-carbonitrile at 20° C. or less. After 1 hour of stirring at room temperature, the mixture was gradually poured into 40 ml of water to precipitate crystals. After 30 minutes of stirring, the crystals were filtrated and washed with water until the pH of the filtrate became 6. The crystals thus obtained were dissolved in ethyl acetate and the solution was extracted after the addition of saturated saline. The organic layer was dried over anhydrous magnesium sulfate, filtrated, and concentrated. The resulting crystals were filtrated, washed with a small amount of hexane and ethyl acetate, and dried to obtain 0.42 g (yield 92%) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylmethylamino)pyrazole-3-carbonitrile.

reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium borohydride | 2.2 mmol, 85 mg | [BH4-].[Na+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylchloromethylimino)pyrazole-3-carbonitrile | 1.1 mmol, 0.5 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1NC(=CC1=NC(Cl)C1=NC=CN=C1)C#N | C16H8Cl3F3N6
reactant | water | 40 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyrazin-2-ylmethylamino)pyrazole-3-carbonitrile | 0.42 g, yield 92% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1NCC1=NC=CN=C1)C#N | C16H9Cl2F3N6
